US08809539B2
Copper (I) cyanide (10.69 g, 0.12 mol) and potassium iodide (6.21 g, 0.037 mol) are added to a stirred pyridine solution (10 mL) of 4-bromo-2-fluorobiphenyl (10 g, 0.040 mol). The reaction mixture is heated at 150-152° C., 5 mL pyridine is distilled out and heating is continued at 150-152° C. for 24 hrs. The reaction mixture is cooled to 95-1000, toluene (100 mL) is added to it. It is cooled to 35-40° C. and an aqueous ammonia solution (25%, 100 mL) is added. After stirring for half an hour, toluene layer is separated and washed with aqueous ammonia solution (2×50 mL), then demineralized water (3×100 mL). The toluene layer is charcoalized and concentrated to give 2-fluorobiphenyl-4-carbonitrile.

reactant | Copper (I) cyanide | 0.12 mol, 10.69 g | [Cu]C#N
reactant | potassium iodide | 0.037 mol, 6.21 g | [I-].[K+]
reactant | 4-bromo-2-fluorobiphenyl | 0.040 mol, 10 g | BrC1=CC(=C(C=C1)C1=CC=CC=C1)F | C12H8BrF
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-fluorobiphenyl-4-carbonitrile | FC1=C(C=CC(=C1)C#N)C1=CC=CC=C1 | C13H8FN
